Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, shortness of breath
 
Major Surgical or Invasive Procedure:
Pacemaker implantation

 
History of Present Illness:
Ms. ___ is an ___ y/o woman with PMH notable for HTN and RA 
not
on treatment presenting with shortness of breath.

Per patient, she has had shortness of breath for the last year.
She only has it with exertion, although inconsistently. She
states that she has up until recently been able to walk up a
flight of stairs with some difficulty and potentially some
associated substernal tightness, but not all of the time. The 
DOE
has been progressive to the point where on day of presentation,
she was only able to walk about a quarter of a block. She states
that any exertion and cold air make her symptoms worse and when
they come on she needs to stop and rest for about ___ minutes
prior to resolution and resumption of her previous activities.
She denies any associated lightheadedness, chest pain/pressure
apart from during her DOE episodes, palpitations, headaches,
abdominal symptoms, N/V, or increased ___ swelling over this 
time.
Her weight has also remained stable over the past year.

Per patient, for the past few days, her dyspnea has gotten 
worse.
She thinks that her blood pressure medications are contributing
and as such has not taken any of them for about 4 days. On day 
of
presentation, as above, she was so short of breath that she
visited her ___ clinic and was noted to short of breath,
bradycardic and hypertensive to the point where she was referred
to the hospital for further work-up. Of note, the patient denies
any headaches, visual changes, LH, falls, focal limb
weakness/numbness, orthopnea, palpitations, PND, increased ___
swelling, poor PO intake, abdominal pain, diarrhea, 
constipation,
dysuria, or change in urinary habits. The only thing she has to
add is that at times, not necessarily related to her episodes of
DOE, she does have some difficulty swallowing both solids and
fluids. She endorses the sensation the things get stuck in her
lower throat and "move slowly" down her esophagus. Otherwise, 
she
was started recently on a medicine (trospium) for increased
urinary frequency by ___ urology. The patient was concerned
that this medication as causing her leg and hip cramps and self
discontinued it as well. She also clarifies that although she 
has
RA, she has never been on a DMARD or prednisone, just Tylenol at
home for pain. Of note, the patient has no recent travel and/or
tick/animal exposure.

 
Past Medical History:
-Hypertension
-Hyperlipidemia
-Glaucoma

 
Social History:
___
Family History:
No known family history of heart disease (apart
from possibly some form of cardiac death in her mother) or
pacemakers in the family

 
Physical Exam:
Admission Exam:
===============
VS:  97.8 230/84 (161/83 on repeat) 38 18 100 RA 
GENERAL: NAD, sitting up in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, midline tongue on protrusion, symmetric palatal elevation,
and eyebrow raise.
NECK: supple, no JVD with patient sitting upright
HEART: slowed rate, normal and regular S1/S2, no murmurs,
gallops, or rubs
LUNGS: CTAB, no wheezes, crackles, rhonchi, breathing 
comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, BS+
EXTREMITIES: no cyanosis, clubbing, or edema appreciated in b/l
UE and ___, which are all warm to palpation; ulnar deformity and
chronic hypertrophy of MCPs and PIPs associated with rheumatoid
arthritis  
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, sensation to light touch symmetric and intact in
all divisions of CN5, UE, torso, and ___ strength ___ in both
shoulder shrug, UE, and ___
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
DISCHARGE EXAM:
===============
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, midline tongue on protrusion, symmetric palatal elevation,
and eyebrow raise.
NECK: supple, no JVD
HEART: Regular rate and rhythm, no murmurs, rubs or gallops
LUNGS: CTAB, no wheezes, crackles, rhonchi, breathing 
comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, BS+
EXTREMITIES: no cyanosis, clubbing, or edema appreciated in b/l
UE and ___, which are all warm to palpation; ulnar deformity and
chronic hypertrophy of MCPs and PIPs associated with rheumatoid
arthritis  
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, sensation to light touch symmetric and intact in
all divisions of CN5, UE, torso, and ___ strength ___ in both
shoulder shrug, UE, and ___
SKIN: warm and well perfused, no excoriations or lesions, no
rashes. Pacemaker implant site clean, dry and intact with
pressure dressing covering. No hematoma.

 
Pertinent Results:
ADMISSION LABS:
===================
___ 06:40PM BLOOD WBC-7.4 RBC-4.57 Hgb-13.4 Hct-40.4 MCV-88 
MCH-29.3 MCHC-33.2 RDW-13.6 RDWSD-43.7 Plt ___
___ 06:40PM BLOOD Neuts-35.5 Lymphs-55.9* Monos-5.5 Eos-2.4 
Baso-0.4 Im ___ AbsNeut-2.64 AbsLymp-4.15* AbsMono-0.41 
AbsEos-0.18 AbsBaso-0.03
___ 06:40PM BLOOD ___ PTT-29.6 ___
___ 06:40PM BLOOD Glucose-120* UreaN-13 Creat-1.0 Na-143 
K-3.9 Cl-106 HCO3-23 AnGap-14
___ 07:25AM BLOOD ALT-42* AST-32 LD(LDH)-266* CK(CPK)-218* 
AlkPhos-134* TotBili-0.7
___ 06:40PM BLOOD Calcium-9.6 Phos-3.4 Mg-2.1
___ 06:40PM BLOOD TSH-1.7

PERTINENT STUDIES:
====================
___ Cardiovascular ECHO 
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (biplane LVEF = 70 %). Global 
longitudinal strain is -19.3% (nl > 15.9%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. Mild to moderate (___) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: 
1) Sinus bradycardia with what appears to be 2nd degree AV block 
Mobitz type I during the echocardiogram.
2) Moderate tricuspid regurgitation in setting of mild pulmonary 
systolic arterial hypertension with normal RV size/function.
3) Mild to moderate mitral regurgitation.  

DISCHARGE LABS:
==================
___ 06:20AM BLOOD WBC-7.5 RBC-4.53 Hgb-13.3 Hct-40.6 MCV-90 
MCH-29.4 MCHC-32.8 RDW-13.9 RDWSD-45.4 Plt ___
___ 07:25AM BLOOD Neuts-29.3* Lymphs-60.1* Monos-6.8 
Eos-3.4 Baso-0.3 Im ___ AbsNeut-2.06 AbsLymp-4.24* 
AbsMono-0.48 AbsEos-0.24 AbsBaso-0.02
___ 06:20AM BLOOD ___ PTT-28.0 ___
___ 06:20AM BLOOD Glucose-105* UreaN-17 Creat-1.0 Na-143 
K-4.3 Cl-105 HCO3-21* AnGap-17
___ 06:20AM BLOOD ALT-34 AST-28 LD(LDH)-254* AlkPhos-124* 
TotBili-0.6
___ 06:20AM BLOOD Albumin-3.8 Calcium-8.9 Phos-4.4 Mg-2.2
___ 06:40PM BLOOD TSH-1.7

 
Brief Hospital Course:
Ms. ___ is an ___ y/o woman with PMH notable for HTN and RA 
not on treatment admitted for acute-on-chronic progressive DOE, 
found to have complete heart block, s/p dual chamber pacemaker 
implantation.

ACUTE ISSUES:
==============
#Complete heart block: The patient presented with intermittent 
2:1 and complete heart block concerning for infranodal disease. 
This is likely secondary to degenerative disease, though lyme 
and TSH were both sent and were normal. She remained 
hemodynamically stable despite her complete heart block, and on 
___, the patient had a dual chamber pacemaker implanted. The 
pacemaker was interrogated the following day, and was capturing 
and functioning appropriately. Follow up chest X-ray showed lead 
placement in the proper location. She was treated with Cefazolin 
for infection prophylaxis, and was discharged with Keflex ___ 
PO TID to finish a 3 day course. She will follow up with EP as 
an outpatient.

#DOE: The patient's sensation of dyspnea was likely related to 
underlying bradyarrhythmia. Given her poorly severe RA, she may 
have some underlying ILD. Will recommend PFTs as an outpatient. 
No evidence of heart failure or reactive airway
disease. On the day of discharge, the patient ambulated with no 
desaturations, and her breathing was improved.

#Transaminitis: The patient was noted to have a mild 
transaminitis on presentation. This downtrended while in the 
hospital, and was likely secondary to some degree of congestive 
hepatopathy in the setting of severe bradycardia. It is also 
possible that she has a viral syndrome in addition to her 
complete heart block, and that this is the cause of her 
transaminitis. The patient should have LFTs drawn at her first 
follow up appointment to confirm resolution. 

CHRONIC ISSUES:
===============
#Rheumatoid arthritis: continue Tylenol PRN pain

#Hypertension: Held Metoprolol while in the hospital, continued 
on home Amlodi[ine. 

#Hyperlipidemia: not on home statin. Will recommend outpatient 
lipid panel and consideration of initiation of statin for 
primary prevention of CAD.

TRANSITIONAL ISSUES:
====================
[] Pt with mild transaminitis likely secondary to mild 
congestive hepatopathy: Please get LFTs at first follow up
[] Pt with some chronic shortness of breath in the setting of 
severe rheumatoid arthritis: Recommend outpatient PFTs for 
possible restrictive lung disease
[] Pt not on Statin: Recommend lipid panel and consideration of 
initiation of Statin if indicated for primary prevention of CAD
[] Metoprolol was held while in hospital in the setting of 
complete heart block: Would consider restarting as an outpatient 
vs. trial of a different agent if using as an antihypertensive 
as an ___ may provide better antihypertensive effect

Labs:
[] Discharge LFTs: ALT 34; AST 28; LDH 254; ALP 124; T Bili 0.6

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. trospium 20 mg oral QHS 
3. Metoprolol Tartrate 50 mg PO BID 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
5. Aspirin 81 mg PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H Duration: 2 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth Three times per day 
Disp #*6 Capsule Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  trospium 20 mg oral QHS  
7. HELD- Metoprolol Tartrate 50 mg PO BID  This medication was 
held. Do not restart Metoprolol Tartrate until you are told to 
do so by your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Complete heart block 

Secondary diagnosis:
- Rheumatoid arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were feeling somewhat fatigued and short of breath
- You were found to have a very slow heart rate

WHAT HAPPENED WHILE I WAS HERE?
- Your heart rate was beating very slow because you had a 
condition called heart block
- This sometimes happens as the heart ages and the electrical 
system slows down
- Because your heart was beating so slowly, you needed a 
pacemaker to help keep it beating at a normal speed
- You were seen by the heart rhythm specialists 
(electrophysiologists) and they put in a pacemaker
- The pacemaker was functioning properly, and you were able to 
be discharged home

WHAT SHOULD I DO WHEN I LEAVE?
- Please take all of your medications as prescribed to you
- Please make sure to attend all of the follow up appointments 
as arranged for you

It was a pleasure to care for you during your hospital stay.

Your ___ team
 
Followup Instructions:
___